US08877922B2
(R)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid
To a suspension of (R)-piperidine-2-carboxylic acid (12.5 g, 96.8 mmol) in water (88 mL) and 1,4-dioxane (133 mL), were added di-tert-butyl dicarbonate (23.2 g, 106 mmol) and triethylamine (13.5 mL, 96.8 mmol). The solution was stirred at room temperature for 20 hours. The mixture was concentrated in vacuo, diluted with ethyl acetate (200 mL) and washed with 5% aqueous HCl. The organic phase was separated, dried over anhydrous Na2SO4, filtered, and concentrated to afford the compound as a white solid (18.5 g, 83%). MS 130 (MH+-boc).

reactant | (R)-piperidine-2-carboxylic acid | 96.8 mmol, 12.5 g | N1[C@H](CCCC1)C(=O)O | C6H11NO2
reactant | di-tert-butyl dicarbonate | 106 mmol, 23.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 96.8 mmol, 13.5 mL | C(C)N(CC)CC | C6H15N
solvent | water | 88 mL | O | H2O
solvent | 1,4-dioxane | 133 mL | O1CCOCC1 | C4H8O2
product | (R)-1-(tert-butoxycarbonyl)piperidine-2-carboxylic acid | 18.5 g, 83% | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(=O)O | C11H19NO4
